US06326398B1
To a warm (100° C.) solution of 4-(2-chloro-6-methyl-4-nitro-phenoxy)-2-(4-fluorophenoxymethyl)-phenol (100 mg) in glacial acetic acid (2.5 mL) was added zinc dust (243 mg) and heating was continued for 30 min. The reaction mixture was cooled, diluted with ethyl acetate and filtered through Celite®. The filtrate was washed with 1 M aqueous sodium bicarbonate, dried over sodium sulfate, concentrated in vacuo and flashed chromatographed (30% ethyl acetate/hexanes) to afford 4-(4-amino-2-chloro-6-methyl-phenoxy)-2-(4-fluoro-phenoxymethyl)-phenol (90 mg) as a tan solid.

reactant | 4-(2-chloro-6-methyl-4-nitro-phenoxy)-2-(4-fluorophenoxymethyl)-phenol | 100 mg | ClC1=C(OC2=CC(=C(C=C2)O)COC2=CC=C(C=C2)F)C(=CC(=C1)[N+](=O)[O-])C | C20H15ClFNO5
solvent | acetic acid | 2.5 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 243 mg | [Zn] | Zn
product | 4-(4-amino-2-chloro-6-methyl-phenoxy)-2-(4-fluoro-phenoxymethyl)-phenol | 90 mg | NC1=CC(=C(OC2=CC(=C(C=C2)O)COC2=CC=C(C=C2)F)C(=C1)C)Cl | C20H17ClFNO3
